US06482829B2
Rac-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-3-phenyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=576.0 (M+H+), was prepared in accordance with the general method of example 62 from (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one and 4 phenylboronic acid.

reactant | (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=C(C=CC=C3)C)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C24H23F6N3O2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | Rac-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-3-phenyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(C(N3C3=C(C=CC=C3)C)C)C3=CC=CC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C30H27F6N3O2
